US06469017B1
To a stirring solution of 0.31 g 3-(cyanopentyl)-7-methylxanthine (1.2 mmol) in 20 ml dimethyl sulfoxide was added 30 mg sodium hydride (1.3 mmol). After 25 minutes, 0.34 g of (R)-5-acetoxy-1-iodohexane (1.3 mol) was added and the mixture was stirred for 24 h. The mixture was then quenched with 70 ml water and extracted three times with 30 ml ethyl acetate. The combined extracts were washed two times with 35 ml saturated aqueous sodium chloride solution and dried over sodium sulfate, and concentrated under vacuum. The residue was purified by flash chromatography (silica gel) eluting with 5% methanol-ethyl acetate to give 0.42 g (R)-1-(5-acetoxyhexyl)-3-(5-cyanopentyl)-7-methylxanthine (88% yield) as a viscous oil.

reactant | 3-(cyanopentyl)-7-methylxanthine | 1.2 mmol, 0.31 g | C(#N)CCCCCN1C(NC(C=2N(C=NC12)C)=O)=O | C12H15N5O2
reactant | sodium hydride | 1.3 mmol, 30 mg | [H-].[Na+]
reactant | (R)-5-acetoxy-1-iodohexane | 1.3 mol, 0.34 g | C(C)(=O)O[C@@H](CCCCI)C | C8H15IO2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | (R)-1-(5-acetoxyhexyl)-3-(5-cyanopentyl)-7-methylxanthine | 0.42 g, 88% yield | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)CCCCCC#N)C | C20H29N5O4
